US06417406B1
This latter embodiment is described below in an example of reacting acetone with isovaleraldehyde to produce 6-methylheptan-2-one. The reaction proceeds in situ via the aldolization stage yielding the corresponding β-hydroxyketone, which is not isolated. Under the reaction conditions elimination of water takes place with the formation of 6-methylhept-3-en-2-one, which is selectively hydrogenated by the homogeneously distributed hydrogenation catalyst in the lipophobic alcohol phase to form the corresponding methyl ketone.

reactant | isovaleraldehyde | C(CC(C)C)=O | C5H10O
reactant | acetone | CC(=O)C | C3H6O
product | 6-methylheptan-2-one | CC(CCCC(C)=O)C | C8H16O
